US08314097B2
A suspension of 5-(2-Bromo-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid (2,2,2-trifluoroethyl)amide (0.168 g, 0.405 mmol), given in example 9, CuI (0.004 g, 0.021 mmol), N,N′-dimethylethylene diamine (0.005 mL, 0.042 mmol), Cs2CO3 (0.198 g, 0.609 mmol), and THF (15 mL) is heated to 110° C. for 60 h. The mixture is then filtered and concentrated. The residue is purified via flash chromatography (EtOAc/hexanes) to give 1,2,6′,7′-Tetrahydro-2-oxo-1-(2,2,2-trifluoroethyl) spiro[3H-indole-3,5′-[5H]pyrrolo[1,2-c]imidazole]-6-carbonitrile. MS (ESI) m/z 333.1 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 2.85-2.96 (m, 1 H), 3.03-3.18 (m, 2 H), 3.27-3.39 (m, 1 H), 4.20-4.34 (m, 1 H), 4.43-4.57 (m, 1 H), 6.86 (s, 1 H), 7.04 (s, 1 H), 7.30 (s, 1 H), 7.35 (d, J=7.8 Hz, 1 H), 7.52 (dd, J=7.6, 1.3 Hz, 1 H).

reactant | 5-(2-Bromo-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid (2,2,2-trifluoroethyl)amide | 0.405 mmol, 0.168 g | FC(CNC(=O)C1(CCC=2N1C=NC2)C2=C(C=C(C=C2)C#N)Br)(F)F | C16H12BrF3N4O
reactant | N,N′-dimethylethylene diamine | 0.042 mmol, 0.005 mL | CNCCNC | C4H12N2
reactant | Cs2CO3 | 0.609 mmol, 0.198 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | CuI | 0.021 mmol, 0.004 g | [Cu]I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1,2,6′,7′-Tetrahydro-2-oxo-1-(2,2,2-trifluoroethyl) spiro[3H-indole-3,5′-[5H]pyrrolo[1,2-c]imidazole]-6-carbonitrile | O=C1N(C2=CC(=CC=C2C12CCC=1N2C=NC1)C#N)CC(F)(F)F | C16H11F3N4O
